* Z:\home\matias\Mati\FIUBA\Circuitos2\TPSS\circuitos2_proyecto\simulaciones\douglasSape.asc
Q1 N020 N017 N015 0 MPSA56
Q2 N019 entrada_pos N014 0 MPSA56
R1 N016 N022 50
C1 entrada_pos N016 47µ
Q3 N020 N020 N027 0 MPSA06
Q4 N019 N020 N026 0 MPSA06
R2 N013 N014 100
R3 N013 N015 100
R4 N026 N029 68
R5 N027 N029 68
C2 0 N029 100n
Q5 N020 N017 N015 0 MPSA56
Q6 N019 entrada_pos N014 0 MPSA56
R8 N001 N004 100
Q7 N011 N008 N004 0 MPSA56
R9 N009 N012 10k
R12 N011 N013 2k2
C4 N001 N008 47µ
R13 N012 0 10k
C5 N001 N012 47µ
C6 N001 0 100n
R14 N009 N008 2.2k
R10 N028 N029 10
Q8 N018 N025 N028 0 MPSA06
Q9 0 N019 N025 0 MPSA06
R11 N025 N029 2.2k
R15 N001 N003 68
Q10 N018 N009 N003 0 MPSA56
Q11 N009 N002 N001 0 MPSA56
R17 N003 N002 2.2k
V1 N001 0 30
V2 0 N029 30
R18 N018 N017 2k2
R19 0 N021 100
C7 N017 N021 1000µ
V3 N022 0 SINE(0 100m {freq})
C3 N018 N019 100p
R6 entrada_pos N023 1k1
R7 N023 0 1k1
C8 N024 N023 47µ
R123 N017 N024 100
XU1 N006 NC_01 0 N007 N005 LM339
V4 N006 0 1
R20 N005 N010 1k
V6 0 N007 15
V5 N010 0 10
Q12 NC_02 NC_03 NC_04 0 MJE340
.model NPN NPN
.model PNP PNP
.lib C:\users\matias\Mis Documentos\LTspiceXVII\lib\cmp\standard.bjt
.lib Z:\home\matias\Mati\FIUBA\Circuitos2\TPSS\circuitos2_proyecto\simulaciones\standard.bjt
.tran 0 110m 100m 10u
.inc standard.dio
.four {freq} V(n014)
.param freq 1k
* Input pairs before and after constant-gm\ndegeneration, showing how to double stage current while\nkeeping transconductance constant; distortion is reduced\nby about ten times.
* Not all benefit when we add emitter-\ndegeneration resistors. The extra resistances will\ngenerate Johnson noise, increasing the total noise from\nthe input stage.
* Etapa de entrada
.OPTIONS plotwinsize=0
.OPTIONS numdgt=12
.OPTIONS temp=25
.lib LM339.sub
.backanno
.end
