* C:\Users\Luk\Desktop\Circuitos 2\TP Final\Amplificadores\douglasSape.asc
Q1 N028 N025 N021 0 MPSA56
Q2 N027 entrada_pos N020 0 MPSA56
R1 N024 N032 50
C1 entrada_pos N024 47µ
Q3 N028 N028 N043 0 MPSA06
Q4 N027 N028 N042 0 MPSA06
R2 N017 N020 100
R3 N017 N021 100
R4 N042 v-- 68
R5 N043 v-- 68
C2 0 v-- 100n
Q5 N028 N025 N021 0 MPSA56
Q6 N027 entrada_pos N020 0 MPSA56
R8 v++ N003 100
Q7 N013 N004 N003 0 MPSA56
R9 N005 N007 10k
R12 N013 N017 2k2
C4 v++ N004 47µ
R13 N007 0 10k
C5 v++ N007 47µ
C6 v++ 0 100n
R14 N005 N004 2.2k
R10 N044 v-- 10
Q8 N031 N039 N044 0 MPSA06
Q9 0 N027 N039 0 MPSA06
R11 N039 v-- 2.2k
R15 v++ N002 68
Q10 N015 N005 N002 0 MPSA56
Q11 N005 N001 v++ 0 MPSA56
R17 N002 N001 2.2k
R18 vout N025 2k2
R19 0 N030 100
C7 N025 N030 1000µ
V3 N032 0 SINE(0 1 {freq})
C3 N031 N027 100p
R6 entrada_pos N033 1k1
R7 N033 0 1k1
C8 N034 N033 47µ
R123 N025 N034 100
Q12 N019 N022 N031 0 MJE340
R16 N022 N031 1.8k
R21 N015 N022 3k3
Q13 v++ N015 N016 0 MJE340
Q14 N014 N016 N018 0 Qtip41c
Q15 N035 N029 N026 0 Qtip42c
Q16 v-- N031 N029 0 MJE350
R22 N016 N023 100
R23 N023 N029 100
R24 N018 vout .47
R25 vout N026 .47
R26 vout 0 8
D1 v+ N014 RF05VA1S
XU1 N012 N008 v++ 0 N009 LM339
D2 N035 v- RF05VA1S
Q17 v++ N006 N010 0 MJE340
M1 N035 N041 v-- v-- IRF7303
M2 N014 N011 v++ v++ IRF7205
D3 vout N008 DI_1N4937
R30 N008 0 10k
R31 N041 N040 100
R32 N011 N010 100
C9 N015 N031 47µ
R33 N015 N019 10
V6 v++ 0 30
V11 v-- 0 -30
V12 v+ 0 15
V13 v- 0 -15
Q18 0 N006 N010 0 MPSA56
R20 v++ N006 3k3
R28 v+ N012 2k2
R34 N012 0 10k
R35 N006 N009 3k3
XU2 N038 N036 0 v-- N037 LM339
Q19 0 N037 N040 0 MJE340
D4 N036 vout DI_1N4937
R27 0 N036 10k
Q20 v-- N037 N040 0 MPSA56
R29 0 N037 3k3
R36 0 N038 10k
R37 N038 v- 2k2
R38 N037 v-- 3k3
C10 P001 N014 10n
R39 v+ P001 1
C11 P002 N035 10n
R40 v- P002 1
C12 0 N014 100n
C13 0 N035 100n
C14 entrada_pos 0 1n
C15 N031 v-- 300p
C16 v++ N015 300p
.model D D
.lib C:\Users\Luk\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\Luk\Documents\LTspiceXVII\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Luk\Documents\LTspiceXVII\lib\cmp\standard.mos
.lib ../Includes/standard.bjt
.tran 0 8m 4m
.inc ../Includes/standard.dio
.four {freq} V(vout)
.param freq=1k
* Input pairs before and after constant-gm\ndegeneration, showing how to double stage current while\nkeeping transconductance constant; distortion is reduced\nby about ten times.
* Not all benefit when we add emitter-\ndegeneration resistors. The extra resistances will\ngenerate Johnson noise, increasing the total noise from\nthe input stage.
* Etapa de entrada
;OPTIONS plotwinsize=0
;OPTIONS numdgt=12
;OPTIONS temp=25
.lib ../Includes/LM339.sub
.MODEL DI_1N4937 D  ( IS=830n RS=34.0m BV=600 IBV=5.00u
+ CJO=26.5p  M=0.333 N=2.46 TT=288n )
.lib ../includes/TIP41.lib
.lib ../includes/TIP42C.lib
* 2sc3281
* Q2SA1302
.backanno
.end
